US07737145B2
A solution of 1,1-dimethylethyl 4-((2-(4-phenoxyphenyl)ethyl)amino)-1-piperidinecarboxylate (about 9.4 mmol) in a mixture of methanol and dichloroethane (30 mL) was treated with a formaldehyde (37% solution in water). After the addition of sodium cyanoborohydride (710 mg, 11.26 mmol), the reaction was stirred for 17 hours. The reaction was concentrated. Purification on silica gel using a gradient of ethyl acetate in hexane gave 1,1-dimethylethyl 4-(methyl(2-(4-phenoxyphenyl)ethyl)amino)-1-piperidinecarboxylate.

reactant | 1,1-dimethylethyl 4-((2-(4-phenoxyphenyl)ethyl)amino)-1-piperidinecarboxylate | about 9.4 mmol | O(C1=CC=CC=C1)C1=CC=C(C=C1)CCNC1CCN(CC1)C(=O)OC(C)(C)C | C24H32N2O3
reactant | formaldehyde | C=O | CH2O
reactant | sodium cyanoborohydride | 11.26 mmol, 710 mg | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
solvent | dichloroethane | 30 mL | ClC(C)Cl | C2H4Cl2
product | 1,1-dimethylethyl 4-(methyl(2-(4-phenoxyphenyl)ethyl)amino)-1-piperidinecarboxylate | CN(C1CCN(CC1)C(=O)OC(C)(C)C)CCC1=CC=C(C=C1)OC1=CC=CC=C1 | C25H34N2O3
